US07645760B2
a) 7-Nitroquinolin-6-carbaldehyde
6-Methyl-7-nitroquinoline (Achylediani,R. et al. Izvestiya Akademii Nauk Gruzii, Seriya Khimicheskaya (1996), 22(1-4), 43-47) (14 g; 74 mmol) was dissolved in DMF (200 ml) and treated with tert.butoxy-bis(dimethylamino)methan (64.5 ml; 313 mmol) at 160° C. for 30 min. The reaction mixture was evaporated and purified by dissolving in THF (30 ml ), adding TBME (1.5 l) and filtering from the brown precipitate. The filtrate was evaporated to dryness and dissolved in THF (300 ml). NalO4 (95.6 g; 446 mmol) dissolved in water (5 l) was added under stirring within 45 min. The reaction mixture was extracted with EtOAc three times, the combined organic phases were dried over Na2SO4, evaporated to dryness and purified via chromatography (SiO2, toluene/TBME 96/10) to yield the title compound as yellowish crystals (9.5 g; 63%), which were used in the following step.

reactant | 6-Methyl-7-nitroquinoline | 74 mmol, 14 g | CC=1C=C2C=CC=NC2=CC1[N+](=O)[O-] | C10H8N2O2
reactant | tert.butoxy-bis(dimethylamino)methan | 313 mmol, 64.5 ml | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | 7-Nitroquinolin-6-carbaldehyde | 9.5 g, 63% | [N+](=O)([O-])C1=C(C=C2C=CC=NC2=C1)C=O | C10H6N2O3
